US05563163
To a solution of 4.74 ml (0.031 mol) of tetramethylethylenediamine in 300 ml of THF (passed through alumina prior to use) was added 5.8 g (0.03 mol) of 2-ethyl-N,N-diethylbenzamide. The solution was cooled to -78° C. and treated with 34.9 ml (0.031 mol) of a 0.9M solution of s-butyl lithium in cyclohexane. When addition was complete, the mixture was stirred for twenty minutes and then treated with a solution of 3.2 ml (0.04 mol) of ethyl iodide while maintaining the temperature at -78° C. The temperature was then allowed to rise to ambient temperature and the mixture stirred for about sixteen hours and then poured into water. The resulting oil was separated and chromatographed on silica gel, eluting with 10% ethyl acetate/hexane to give 2.86 g (43%) of 2-sec.-butyl-N,N-diethylbenzamide as a yellow oil.

reactant | tetramethylethylenediamine | 0.031 mol, 4.74 ml | CN(CCN(C)C)C | C6H16N2
reactant | 2-ethyl-N,N-diethylbenzamide | 0.03 mol, 5.8 g | C(C)C1=C(C(=O)N(CC)CC)C=CC=C1 | C13H19NO
reactant | s-butyl lithium | C(C)(CC)[Li]
reactant | ethyl iodide | 0.04 mol, 3.2 ml | C(C)I | C2H5I
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | water | O | H2O
product | 2-sec.-butyl-N,N-diethylbenzamide | 2.86 g, 43% | C(C)(CC)C1=C(C(=O)N(CC)CC)C=CC=C1 | C15H23NO
